US08084644B2
Cyclohexylmethyl N-phenylpropynthioimidate (0.34 g) was dissolved to chloroform (8 mL), chloroform (2 mL) solution of 4-fluorothiophenol (0.14 g) was added dropwise under ice-cooling, and then it was stirred at room temperature for 16 hours. The reaction solution was concentrated under reduced pressure. The residue was purified by medium pressure HPLC (hexane/ethyl acetate=98/2) to obtain cyclohexylmethyl 3-(4-fluorophenylthio)-N-(phenyl)thioacrylimidate (0.25 g) as pale yellow oil.

reactant | Cyclohexylmethyl N-phenylpropynthioimidate | 0.34 g | C1(=CC=CC=C1)N=C(C#C)SCC1CCCCC1 | C16H19NS
reactant | 4-fluorothiophenol | 0.14 g | FC1=CC=C(C=C1)S | C6H5FS
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
product | cyclohexylmethyl 3-(4-fluorophenylthio)-N-(phenyl)thioacrylimidate | 0.25 g | FC1=CC=C(C=C1)SC=CC(SCC1CCCCC1)=NC1=CC=CC=C1 | C22H24FNS2
